US08404856B2
Step 3: Methyl 1H-pyrazolo[3,4-b]pyridin-3-ylacetate (12-3)
To a solution of 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid (92 mg, 0.520 mmol) in methanol (4 mL) was bubbled in HCl gas for 2 minutes and the resulting solution was allowed to stand for a further 10 minutes. After this time, the solution was concentrated in vacuo and the resulting residue was partitioned between aqueous NaHCO3 (10 mL) and ethyl acetate (2×10 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and the solvent evaporated in vacuo to provide the title compound. LRMS (M+1): 192.0.

reactant | 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid | 0.520 mmol, 92 mg | N1N=C(C=2C1=NC=CC2)CC(=O)O | C8H7N3O2
reactant | methanol | 4 mL | CO | CH4O
solvent | HCl | Cl | ClH
product | Methyl 1H-pyrazolo[3,4-b]pyridin-3-ylacetate | N1N=C(C=2C1=NC=CC2)CC(=O)OC | C9H9N3O2
